US07022689B2
To a stirred solution of 1.23 mL of dimethyl 2,2-dimethyl-1,3-dioxolane-4,5-dicarboxylate in 12 mL of methanol was added slowly 3.0 mL of 2 mol/L sodium hydroxide solution under ice-cooling. After being stirred at room temperature for 24 hours, the reaction mixture was concentrated under reduced pressure, and the residue was diluted with 15 ml of water. After the mixture was washed with diethyl ether, acidified by addition of 4 mL of 2 mol/L hydrochloric acid. After the aqueous layer was extracted with dichloromethane, the organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 0.686 g of 2,2-dimethyl-1,3-dioxolane-4,5-dicarboxylic acid monomethyl ester.

reactant | dimethyl 2,2-dimethyl-1,3-dioxolane-4,5-dicarboxylate | 1.23 mL | CC1(OC(C(O1)C(=O)OC)C(=O)OC)C | C9H14O6
reactant | sodium hydroxide | 2 mol/L, 3.0 mL | [OH-].[Na+]
solvent | methanol | 12 mL | CO | CH4O
product | 2,2-dimethyl-1,3-dioxolane-4,5-dicarboxylic acid monomethyl ester | 0.686 g | COC(=O)C1OC(OC1C(=O)O)(C)C | C8H12O6
